US09260425B2
A solution containing 3-iodo-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine (0.196 g, 0.434 mmol), benzyl 1-oxo-2,8-diazaspiro[4.5]decane-8-carboxylate (0.250 g, 0.867 mmol), N,N′-Dimethylethylenediamine (0.103 mL, 0.954 mmol), Copper(I) iodide (0.0908 g, 0.477 mmol) and Cesium Carbonate (0.311 g, 0.954 mmol) in 1,4-Dioxane (7.08 mL, 90.7 mmol) was stirred at 75° C. for 2 h. The reaction was filtered thru celite and concentrated. The crude product purified by Isco column (EtOAc/Hep eluted at 50% EtOAc) to give benzyl 1-oxo-2-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)-2,8-diazaspiro[4.5]decane-8-carboxylate (140 mg, 52.7% yield). ESI MS m/z=613.1 (M+1).

reactant | 3-iodo-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine | 0.434 mmol, 0.196 g | IC1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C | C17H21IN4OSi
reactant | benzyl 1-oxo-2,8-diazaspiro[4.5]decane-8-carboxylate | 0.867 mmol, 0.250 g | O=C1NCCC12CCN(CC2)C(=O)OCC2=CC=CC=C2 | C16H20N2O3
reactant | N,N′-Dimethylethylenediamine | 0.954 mmol, 0.103 mL | CNCCNC | C4H12N2
reactant | Cesium Carbonate | 0.954 mmol, 0.311 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-Dioxane | 90.7 mmol, 7.08 mL | O1CCOCC1 | C4H8O2
catalyst | Copper(I) iodide | 0.477 mmol, 0.0908 g | [Cu]I
product | benzyl 1-oxo-2-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)-2,8-diazaspiro[4.5]decane-8-carboxylate | 140 mg, 52.7% yield | O=C1N(CCC12CCN(CC2)C(=O)OCC2=CC=CC=C2)C2=NN(C1=CN=C(C=C12)C=1C=NC=CC1)COCC[Si](C)(C)C | C33H40N6O4Si
